US08648066B2
To a solution of 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepine hydrochloride (1.4 g, 4.5 mmol) and DIPEA (6.4 mL, 37 mmol) in NMP (24 mL) was added and 4-chloro-5-(4-fluorobenzyl)-6-methylpyrimidine (reagent preparation 5) (1.7 g, 7.3 mmol). The resulting mixture was heated (120° C.) for 12 h and then partitioned between ethyl acetate (100 mL) and 1N aqueous hydrochloric acid (50 mL). The organic layer was washed with additional 1N aqueous hydrochloric acid (50 mL), brine (50 mL), dried over anhydrous magnesium sulfate, filtered and concentrated. Column chromatography on silica (0-30% ethyl acetate/hexanes) provided 4-{5-[(4-fluorophenyl)methyl]-6-methylpyrimidin-4-yl}-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepine (1.7 g, 47% yield) as a white foam. MS (EI) for C27H31BFN3O3: 476 (MH+).

reactant | 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepine hydrochloride | 4.5 mmol, 1.4 g | Cl.CC1(OB(OC1(C)C)C=1C=CC2=C(CNCCO2)C1)C
reactant | DIPEA | 37 mmol, 6.4 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-chloro-5-(4-fluorobenzyl)-6-methylpyrimidine | 7.3 mmol, 1.7 g | ClC1=NC=NC(=C1CC1=CC=C(C=C1)F)C | C12H10ClFN2
solvent | NMP | 24 mL | CN1CCCC1=O | C5H9NO
product | 4-{5-[(4-fluorophenyl)methyl]-6-methylpyrimidin-4-yl}-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepine | 1.7 g, 47% yield | FC1=CC=C(C=C1)CC=1C(=NC=NC1C)N1CCOC2=C(C1)C=C(C=C2)B2OC(C(O2)(C)C)(C)C | C27H31BFN3O3
